US05494908
N-[2-(4-Morpholinyl)ethyl]-1,2-benzisoxazol-3-amine
To a solution of 3-amino-1,2-benzisoxazole (3.5 g) in N,N-dimethylformamide (DMF) (100 ml) was added sodium hydride (0.8 g) under nitrogen. The reaction was stirred one hour at ambient temperature. A solution of 4-(2-chloroethyl)morpholine (4.0 g) in DMF (50 ml) was added followed by heating to 120° C. for one hour. TLC (5% MeOH/DCM) analysis revealed the absence of starting material. The reaction was quenched with water and extracted with EtOAc. The organic layer was washed with water, dried (MgSO4), and concentrated in vacuo. Flash column chromatography (silica gel) eluting with 1.5-2.5% MeOH/DCM afforded the product (2.5 g), m.p. 79°-80° C.

reactant | 3-amino-1,2-benzisoxazole | 3.5 g | NC1=NOC2=C1C=CC=C2 | C7H6N2O
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | 4-(2-chloroethyl)morpholine | 4.0 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-(4-Morpholinyl)ethyl]-1,2-benzisoxazol-3-amine | 2.5 g | N1(CCOCC1)CCNC1=NOC2=C1C=CC=C2 | C13H17N3O2
